US05013760
(b) N-[1,2,3,4-Tetrahydro-5,6-dimethoxy-2-naphthyl]-N'-[2-phenylethyl]hexane-1,6-diamide
A solution of 6-oxo-6-(2-phenylethylamino)hexanoic acid (2.49 g) and carbonyldiimidazole (1.62 g) in dry dichloromethane (100 ml) was stirred under a nitrogen atmosphere for 2 hours at room temperature. A solution of 1,2,3,4-tetrahydro-5,6-dimethoxy-2- aminonaphthalene (2.07 g) in dichloromethane (20 ml) was added and the solution stirred at room temperature for 18 hours. The solution was washed with dilute hydrochloric acid, dilute sodium carbonate solution and water. The organic phase was separated, dried over magnesium sulfate, filtered and evaporated to leave the sub-title compound which crystallised from isopropanol as colorless flakes (3.8 g), m.p. 191°-193°.

reactant | 6-oxo-6-(2-phenylethylamino)hexanoic acid | 2.49 g | O=C(CCCCC(=O)O)NCCC1=CC=CC=C1 | C14H19NO3
reactant | carbonyldiimidazole | 1.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,2,3,4-tetrahydro-5,6-dimethoxy-2- aminonaphthalene | 2.07 g | COC1=C2CCC(CC2=CC=C1OC)N | C12H17NO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[1,2,3,4-Tetrahydro-5,6-dimethoxy-2-naphthyl]-N'-[2-phenylethyl]hexane-1,6-diamide | COC1=C2CCC(CC2=CC=C1OC)NC(CCCCC(=O)NCCC1=CC=CC=C1)=O | C26H34N2O4
